US05935952
In 61 ml of ethanol was suspended 12.3 g of ethyl 4-amino-2,5-difluoro-3-difluoromethoxybenzoate, and 31 ml of 2N aqueous sodium hydroxide solution was added to the suspension, after which the resulting mixture was stirred at 40° C. for one hour. To the reaction mixture was added 35 ml of 2N hydrochloric acid and the precipitate formed was collected by filtration, to obtain 10.6 g of colorless, crystalline 4-amino-2,5-difluoro-3-difluoromethoxybenzoic acid.

reactant | ethyl 4-amino-2,5-difluoro-3-difluoromethoxybenzoate | 12.3 g | NC1=C(C(=C(C(=O)OCC)C=C1F)F)OC(F)F | C10H9F4NO3
reactant | sodium hydroxide | 2N, 31 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 35 ml | Cl | ClH
solvent | ethanol | 61 ml | C(C)O | C2H6O
product | 4-amino-2,5-difluoro-3-difluoromethoxybenzoic acid | NC1=C(C(=C(C(=O)O)C=C1F)F)OC(F)F | C8H5F4NO3
